US05942511
Synthesis of 3,6-dihydroxy-4,5-dimethylpyridazine
50 ml of purified water was added to 3.4 ml(0.07 mol) of hydrazine monohydrate and then 14 ml(0.14 mol) of conc. hydrochloric acid was added dropwise thereto. Then, the reaction solution was warmed to boil. When the reaction mixture begins to reflux, 8.83 g(0.07 mol) of 2,3-dimethylmaleic acid anhydride was added thereto. The reaction solution was continuously refluxed for 3 hours and then cooled. The precipitated white crystal was filtered, washed with purified water, dissolved in boiling purified water to remove insoluble material and then recrystallized to obtain the title compound as an amorphous white crystal.

reactant | hydrazine monohydrate | 0.07 mol, 3.4 ml | O.NN
reactant | hydrochloric acid | 0.14 mol, 14 ml | Cl | ClH
reactant | 2,3-dimethylmaleic acid anhydride | 0.07 mol, 8.83 g | C/C=1/C(=O)OC(\C1\C)=O | C6H6O3
solvent | water | 50 ml | O | H2O
product | 3,6-dihydroxy-4,5-dimethylpyridazine | OC=1N=NC(=C(C1C)C)O | C6H8N2O2
